US08440662B2
Step 6: 2-Chloro-4-morpholin-4-yl-7-pyrimidin-5-yl-pyrido[3,2-d]pyrimidine
To a 50 mL round bottom flask, 7-bromo-2-chloro-4-morpholin-4-yl-pyrido[3,2-d]pyrimidine (120 mg, 0.0003647 mol), pyrimidine-5-boronic acid (40.4 mg, 0.0003282 mol), sodium carbonate (57.9 mg, 0.0005471 mol), DMF (5 mL) and water (3 mL) were added and the reaction vessel degassed with nitrogen for 5-10 min. To the same reaction mixture, Pd(PPh3)2Cl2 (15 mg, 0.0003 mol) was added and again degassed with nitrogen for 5-10 min. The reaction mixture was stirred at 95° C. for 2 h. The reaction mixture was cooled and diluted with ethyl acetate. The organic layer was washed with water, brine and dried over sodium sulfate. The solvent was removed under reduced pressure to afford the crude product. The crude product was purified using column chromatography (60-120 silica gel, 0-1.5% MeOH in chloroform) to yield the desired product [55 mg, 43%]. 1H NMR (300 MHz, CDCl3): δ 9.35 (s, 1H), 9.08 (s, 2H), 8.91 (d, J=2.1 Hz, 1H), 8.22 (d, J=2.7 Hz, 1H), 3.89-3.92 (m, 8H); LC-MS (ESI): Calculated mass: 328.1; Observed mass: 329.1 [M+H]+ (RT: 0.56 min).

reactant | 7-bromo-2-chloro-4-morpholin-4-yl-pyrido[3,2-d]pyrimidine | 0.0003647 mol, 120 mg | BrC1=CC=2N=C(N=C(C2N=C1)N1CCOCC1)Cl | C11H10BrClN4O
reactant | pyrimidine-5-boronic acid | 0.0003282 mol, 40.4 mg | N1=CN=CC(=C1)B(O)O | C4H5BN2O2
reactant | sodium carbonate | 0.0005471 mol, 57.9 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | DMF | 5 mL | CN(C)C=O | C3H7NO
catalyst | Pd(PPh3)2Cl2 | 0.0003 mol, 15 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | water | 3 mL | O | H2O
product | 2-Chloro-4-morpholin-4-yl-7-pyrimidin-5-yl-pyrido[3,2-d]pyrimidine | 55 mg, 43% | ClC=1N=C(C2=C(N1)C=C(C=N2)C=2C=NC=NC2)N2CCOCC2 | C15H13ClN6O
